US04786646
a solution of bis[3-(trifluoromethyl)phenyl]diazomethane, prepared as in Example 84 from 3,3'-(trifluoromethyl)benzophenone hydrazone (29.9 g) and activated manganese dioxide (30 g) in dichloromethane (150 mL) was added to a solution of acrolein (9.9 mL) in heptane (90 mL) over 15 minutes at 40° C. The solution was heated at 55° C. for 5.5 hours, then the dichloromethane was distilled off and replaced with heptane (100 mL). After the mixture was heated at 90° C. overnight, the solvent was removed in vacuo and the residue was purified by HPLC (dichloromethanehexane; 1:1). Evaporation of the appropriate fractions yielded 30.5 g of 2,2-bis[3-(trifluoromethyl)phenyl]cyclopropanecarboxaldehyde. Crystallization of a portion from hexane gave the analytical sample, 106°-108° C.

reactant | bis[3-(trifluoromethyl)phenyl]diazomethane | FC(C=1C=C(C=CC1)C(=[N+]=[N-])C1=CC(=CC=C1)C(F)(F)F)(F)F | C15H8F6N2
reactant | acrolein | 9.9 mL | C(=O)C=C | C3H4O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | heptane | 90 mL | CCCCCCC | C7H16
catalyst | manganese dioxide | 30 g | [O-2].[O-2].[Mn+4]
product | 2,2-bis[3-(trifluoromethyl)phenyl]cyclopropanecarboxaldehyde | 30.5 g | FC(C=1C=C(C=CC1)C1(C(C1)C=O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C18H12F6O
